US06133258
The reaction procedure of Example 6 was followed except that 3.60 g (30.64 mmol) of 2-chloronicotinic acid, 20 ml of thionyl chloride, 2.33 g of ammonium thiocyanate and 3.55 g of 4-cyanoaniline were used. As a result, 6.85 g of 2-(4-cyanoanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one was obtained.

reactant | 2-chloronicotinic acid | 30.64 mmol, 3.60 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | ammonium thiocyanate | 2.33 g | [S-]C#N.[NH4+]
reactant | 4-cyanoaniline | 3.55 g | C(#N)C1=CC=C(N)C=C1 | C7H6N2
solvent | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(4-cyanoanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 6.85 g | C(#N)C1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C14H8N4OS
